Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:9](\[C:7](=[C:5][H:6])[H:8])[C:10]([H:11])([H:12])[H:13],0.4724515148899999
[C:1][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[C:2]#[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-7.75870086102
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4],3.97404643821
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9][H:10],4.9466704062
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2](=[O:3])[C:14]([H:15])([H:16])[H:17],0.609789419458
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[O:7])[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-3.18518737114
[C:1]#[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.68214984969
[H:12].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.63939112238
[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.89572798735
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-3.79531252462
[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[O:10][H:11],-0.7195455604109999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],4.96819441855
[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-0.3793095637960001
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8],-5.43294373449
[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.18968642835
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.4927148687600005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8],7.45401765202
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.57096899852
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[C:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:11][H:12],7.166990600389999
[O:1][C:2]([H:3])([H:4])[C:5]1[C:6]2[O:7][C@@:8]12[H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9],1.16618248151
[C:2]([H:3])#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])([H:8])[H:9],-3.5272260828199995
[H:6].[O:1]=[C:2]([H:3])[C:4](=[C:5])[C:7](=[O:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7](=[O:8])[H:9],-4.020078745859999
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7].[O:8]=[C:9][H:10],1.3324591469
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:10][H:11].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-2.08367306393
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],2.15295102133
[H:1][O:2][C:3]([H:4])[C:10]([H:11])([H:12])[H:13].[O:5]=[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.0148664130202
[H:1]/[C:2]([C:3][H:4])=[C:11](\[C:8]([C:5]([H:6])[H:7])([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1[C:12]([H:13])([H:14])[H:15],-4.60482433455
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],0.71618043441
